US04038396
5-Nitro-2-phenyloxazolo[ 5,4-b]pyridine (1.2 g.) in 75 ml. of methanol, 75 ml. of benzene, 5 ml. of acetic acid and 8 ml. of 37% formaldehyde solution was hydrogenated over 1.5 teaspoonsful of Raney nickel. The catalyst was removed by filtration and the filtrate was diluted with 10 ml. of water and basified with solid sodium bicarbonate. The mixture was concentrated to dryness. The residue was crystallized from ethyl acetate to give 5-dimethylamino-2-phenyloxazolo-[ 5,4-b]pyridine, m.p. 127°-129° C.

reactant | 5-Nitro-2-phenyloxazolo[ 5,4-b]pyridine | 1.2 g | [N+](=O)([O-])C1=CC=C2C(=N1)OC(=N2)C2=CC=CC=C2 | C12H7N3O3
reactant | methanol | CO | CH4O
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | formaldehyde | C=O | CH2O
catalyst | Raney nickel | [Ni] | Ni
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-dimethylamino-2-phenyloxazolo-[ 5,4-b]pyridine | CN(C1=CC=C2C(=N1)OC(=N2)C2=CC=CC=C2)C | C14H13N3O
